US08809525B2
4-(3-amino-5-phenyl-1,2,4-triazin-6-yl)-2-(propan-2-yloxy)phenol (0.450 g, 18%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (1.9 g, 7.52 mmol) and 3-isopropoxy-4-hydroxyphenylboronic acid pinacol ester (2.5 g, 9.02 mmol) according to the general procedure of Example 1.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 7.52 mmol, 1.9 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3-isopropoxy-4-hydroxyphenylboronic acid pinacol ester | 9.02 mmol, 2.5 g | C(C)(C)OC=1C=C(C=CC1O)B1OC(C)(C)C(C)(C)O1 | C15H23BO4
product | 4-(3-amino-5-phenyl-1,2,4-triazin-6-yl)-2-(propan-2-yloxy)phenol | 0.450 g, 18% | NC=1N=NC(=C(N1)C1=CC=CC=C1)C1=CC(=C(C=C1)O)OC(C)C | C18H18N4O2
